US08227504B2
4-(1-Acetyl-piperidin-3-yl)-N-{2-methyl-4-[3-(2-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-phenyl}-benzamide
The title compound was prepared in a manner substantially the same as Example 1 by coupling 2-methyl-4-[3-(2-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-phenylamine with 4-(1-acetyl-piperidin-3-yl)-benzoic acid. MS: 503.3 (M+H).

reactant | 2-methyl-4-[3-(2-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-phenylamine | CC1=C(C=CC(=C1)N1CC(CC1)CN1C(CCC1)C)N | C17H27N3
reactant | 4-(1-acetyl-piperidin-3-yl)-benzoic acid | C(C)(=O)N1CC(CCC1)C1=CC=C(C(=O)O)C=C1 | C14H17NO3
product | 4-(1-Acetyl-piperidin-3-yl)-N-{2-methyl-4-[3-(2-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-phenyl}-benzamide | C(C)(=O)N1CC(CCC1)C1=CC=C(C(=O)NC2=C(C=C(C=C2)N2CC(CC2)CN2C(CCC2)C)C)C=C1 | C31H42N4O2
